US06166006
To a suspension of 7-(4-ethoxyphenyl)-N-(4-hydroxymethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (2.55 g) and pyridine (2 drops) in chloroform (50 ml) was added thionyl chloride (0.8 ml) at room temperature, and the mixture was stirred for 20 hours. To the reaction mixture was added water and then THF, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure to give solid, which was dissolved in THF and ethyl acetate. The mixture was concentrated under reduced pressure to give crystals, which were collected by filtration and washed with diisopropylether to give N-(4-chloromethylphenyl)-7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (2.42 g) as colorless crystals.

reactant | 7-(4-ethoxyphenyl)-N-(4-hydroxymethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide | 2.55 g | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)NC2=CC=C(C=C2)CO)C1 | C26H25NO4
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chloromethylphenyl)-7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide | 2.42 g | ClCC1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)OCC | C26H24ClNO3
